US06881844B2
A solution of 6-nitro-1H-indole (1.0 g, 6.17 mmol) in tetrahydrofuran (5 mL) cooled to 0° C. was treated with trifluoroacetic anhydride (1.31 mL, 9.25 mmol). The reaction was stirred at 0° C. for 1 h and then was allowed to warm to 25° C. where it was stirred for 16 h. At this time, the reaction was poured into water (100 mL) and stirred at 25° C. for 5 min. The resulting precipitate was collected by filtration, washed with water (100 mL), and dried in vacuo. This solid was re-dissolved in tetrahydrofuran (8 mL) at 25° C., and the resulting solution was treated with trifluoroacetic anhydride (1 mL, 7.08 mmol) and was stirred at 25° C. for 1 h. The resulting precipitate was collected by filtration, washed with water, and dried in vacuo to afford 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone (646 mg, 40%) as a yellow solid: mp 263-265° C.; EI-HRMS m/e calcd for C10H5F3N2O3 (M+) 258.0252, found 258.0253.

reactant | 6-nitro-1H-indole | 6.17 mmol, 1.0 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1 | C8H6N2O2
reactant | trifluoroacetic anhydride | 9.25 mmol, 1.31 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 100 mL | O | H2O
reactant | trifluoroacetic anhydride | 7.08 mmol, 1 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone | 646 mg, 40% | FC(C(=O)C1=CNC2=CC(=CC=C12)[N+](=O)[O-])(F)F | C10H5F3N2O3
